US08071600B2
Sodium hydride (55%, oily, 90 mg, 2.2 mmol) was added to a DMF solution (2 ml) of 3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propanol (0.2 g, 0.7 mmol) and N-methyl-2-chlorothiazole-4-carboxamide (0.26 g, 1.45 mmol) under ice cooling and the solution was stirred at 80° C. for 1.5 hours. After the reaction solution was cooled to room temperature and water was added thereto, it was extracted with ethyl acetate. The extraction solution with ethyl acetate was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (dichloromethane:ethyl acetate=5:1→ethyl acetate). After the purified product was concentrated under reduced pressure, the residue was dissolved in ethyl acetate. A solution of 4N-hydrochloric acid/ethyl acetate was added to the solution and the insoluble matter precipitated was obtained by filtration and dried to obtain N-methyl-2-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]thiazole-4-carboxamide hydrochloride (0.24 g) as light yellow powder.

reactant | Sodium hydride | 2.2 mmol, 90 mg | [H-].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propanol | 0.7 mmol, 0.2 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCO | C15H20N2OS
reactant | N-methyl-2-chlorothiazole-4-carboxamide | 1.45 mmol, 0.26 g | CNC(=O)C=1N=C(SC1)Cl | C5H5ClN2OS
solvent | water | O | H2O
product | N-methyl-2-[3-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)propoxy]thiazole-4-carboxamide hydrochloride | 0.24 g | Cl.CNC(=O)C=1N=C(SC1)OCCCN1CCN(CC1)C1=CC=CC=2SC=CC21 | InChI=1S/C20H24N4O2S2.ClH/c1-21-19(25)16-14-28-20(22-16)26-12-3-7-23-8-10-24(11-9-23)17-4-2-5-18-15(17)6-13-27-18;/h2,4-6,13-14H,3,7-12H2,1H3,(H,21,25);1H
